US05756510
(a) 1st stage--Preparation of Methyl 3-hydroxy-2-(N-4-nitrobenzoyl)aminobenzoate
Methyl 2-amino-3-hydroxybenzoate (0.5 g; 2.99 mmol) was dissolved in m-xylene (40 ml) with warming to 60° C. 4-Nitrobenzoyl chloride (0.556 ml; 2.99 mmol) was added dropwise, and this was left to stir for 4 hours. The solution was cooled to ambient temperature and the m-xylene removed under reduced pressure. The solid was dissolved in water (100 ml) and the organics extracted into ethyl acetate (3×50 ml). The organic fractions were pooled, dried over magnesium sulphate, filtered and the solvent removed under reduced pressure.

reactant | Methyl 2-amino-3-hydroxybenzoate | 2.99 mmol, 0.5 g | NC1=C(C(=O)OC)C=CC=C1O | C8H9NO3
reactant | 4-Nitrobenzoyl chloride | 2.99 mmol, 0.556 ml | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | m-xylene | 40 ml | C1(=CC(=CC=C1)C)C | C8H10
product | Methyl 3-hydroxy-2-(N-4-nitrobenzoyl)aminobenzoate | OC=1C(=C(C(=O)OC)C=CC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H12N2O6
